US04866089
Preparation of 6-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone
In 100 ml of methyl-ethyl-ketone 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone are dissolved and to the solution thus obtained 4.1 g (30 millimoles) of potassium carbonate, 0.5 g of potassium iodide and 3.3 g (2.6 millimoles, 24 millimoles) of sec. butyl bromide are added under stirring. The reaction mixture is heated to boiling for 12 hours. The reaction mixture is worked up according to Example 17. Thus 4.5 g of the desired compound are obtained, yield 86%, mp.: 114°-116° C.

reactant | methyl-ethyl-ketone | 20 millimoles, 100 ml, 4.2 g | CC(=O)CC | C4H8O
reactant | potassium carbonate | 30 millimoles, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | sec. butyl bromide | 2.6 millimoles, 3.3 g | C(C)(CC)Br | C4H9Br
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
product | 6-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | 4.5 g, yield 86% | OC=1C=C2C(CC(OC2=CC1OC(C)CC)(C)C)=O | C15H20O4
